US04284634
A mixture of 2-chloro-5-nitrobenzaldehyde (3.73 g), ethyl 4,4-diethoxyacetoacetate (4.365 g) and piperidine (272.5 mg) in benzene (10 ml) was refluxed under azeotropic dehydration for 1.5 hours. To the mixture was added ethyl acetate, and the resultant mixture was washed three times with water and then with an aqueous solution of sodium chloride, and dried over magnesium sulfate. The solvent was removed under reduced pressure to give a reddish brown oil (7.87 g) of ethyl 2-(2-chloro-5-nitrobenzylidene)-4,4-diethoxyacetoacetate. The mixture of thus obtained reddish brown oil and ethyl 3-aminocrotonate (3.48 g) was heated with stirring at 105° to 107° C. in an oil bath for 4.5 hours. The resultant mixture was extracted with ethyl acetate, and the extract was washed with water three times and then with an aqueous solution of sodium chloride, and dried over magnesium sulfate. After removal of the solvent from the extract, the obtained residue (10.87 g) was subjected to column chromatography on silica gel with an eluent (a mixture of 20 parts of chloroform and one part of ethyl acetate by volume). The fractions were checked with thin-layer chromatography and crystals (6.02 g) were obtained by removing the solvent from the fraction containing the designated substance. The crystals were recrystallized from a mixture of diethyl ether and n-hexane to give crystals of diethyl 2-methyl-4-(2-chloro-5-nitrophenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate, m.p. 117° to 118° C.

reactant | 2-chloro-5-nitrobenzaldehyde | 3.73 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | ethyl 4,4-diethoxyacetoacetate | 4.365 g | C(C)OC(C(CC(=O)OCC)=O)OCC | C10H18O5
reactant | piperidine | 272.5 mg | N1CCCCC1 | C5H11N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(2-chloro-5-nitrobenzylidene)-4,4-diethoxyacetoacetate | 7.87 g | ClC1=C(C=C(C(=O)OCC)C(=O)C(OCC)OCC)C=C(C=C1)[N+](=O)[O-] | C17H20ClNO7
